US09056874B2
(±)-2-(Methoxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(methoxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate as described in Example 24-B. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.91 (d, J=6.57 Hz, 1H) 10.92 (br. s., 1H) 7.91-7.97 (m) 7.88 (m) 7.55-7.66 (m, 1H) 7.42-7.54 (m, 1H) 7.18 (t, J=2.72 Hz, 1H) 6.78 (s, 1H) 6.24-6.30 (m, 2H) 3.80 (s, 3H) 3.33 (s, 3H) 2.46 (s, 3H). HRMS calcd. for C20H18N4O2 (M+H)+ 347.1429. found 347.1516.

reactant | (±)-tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(methoxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)OC)COCC[Si](C)(C)C)C=C1 | C31H40N4O5Si
reactant | 5-methoxy-7-methyl-1H-indole-1-carboxylate | COC=1C=C2C=CN(C2=C(C1)C)C(=O)[O-]
product | (±)-2-(Methoxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | COC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2OC)C | C20H18N4O2
